US08404681B2
8-Hydroxy-6-morpholin-4-yl-9-oxo-9,10-dihydro-acridine-3-carboxylic acid hexyl ester
5-Morpholin-4-yl-benzene-1,3-diol (290 mg, 1.50 mmol), TsOH.H2O (30 mg, 0.20 mmol), and 2-amino-terephthalic acid 1-methyl ester (290 mg, 1.50 mmol) were heated at 160° C. in hexanol (5 mL) for 12 hours. The reaction mixture was cooled to room temperature. A red/orange precipitate was filtered, and the solid washed with EtOAc/hexanes (3:1, 30 mL) to yield 159 mg (31%). 1H NMR (CDCl3, 400 MHz) δ: 13.90 (s, 1H), 11.9 (s, 1H), 8.22 (d, 1H), 8.07 (s, 1H), 7.68 (d, 1H), 6.27 (s, 1H), 6.19 (s, 1H), 4.33 (t, 2H), 3.74-3.64 (m, 4H), 3.33-3.22 (m, 4H), 1.76-1.73 (m, 2H), 1.54-1.20 (m, 6H), 0.89 (5, 3H). LRMS (APCI, positive): Da/e 425.2 (m+1).

reactant | 5-Morpholin-4-yl-benzene-1,3-diol | 1.50 mmol, 290 mg | N1(CCOCC1)C=1C=C(C=C(C1)O)O | C10H13NO3
reactant | TsOH.H2O | 0.20 mmol, 30 mg | CC=1C=CC(=CC1)S(=O)(=O)O.O
reactant | 2-amino-terephthalic acid 1-methyl ester | 1.50 mmol, 290 mg | COC(C1=C(C=C(C(=O)O)C=C1)N)=O | C9H9NO4
solvent | hexanol | 5 mL | C(CCCCC)O | C6H14O
product | 8-Hydroxy-6-morpholin-4-yl-9-oxo-9,10-dihydro-acridine-3-carboxylic acid hexyl ester | C(CCCCC)OC(=O)C=1C=CC=2C(C3=C(C=C(C=C3NC2C1)N1CCOCC1)O)=O | C24H28N2O5
